### PR TITLE
[Merged by Bors] - feat(Tactic): general tactic to translate `(E)NNReal`, `ENat`, `PNat` goals to `Real` and `Nat`

### PR DESCRIPTION
**Pull request by vasnesterov**
Introduce the basify tactic, which translates goals about types with extended or truncated arithmetic (`PNat`, `ENat`, `NNReal`, `ENNReal`) into equivalent goals about the underlying type (`Nat`, `Real`), where automation works better.

The tactic is extensible:

* `@[basify_elim]` adds support for a new type;
* `@[basify_op]` adds support for a new operation;
* `@[basify_simp]` adds rewrite lemmas for clearing the degenerate branches

It subsumes `pnat_to_nat` and `enat_to_nat` (#43422).

---

PR structure:
* `Tactic/Basify.lean` contains the implementation of the tactic
* `Tactic/Basify/Attr.lean` registers attributes
* `MathlibTest/Basify.lean` -- tests
* Other changes are purely tagging lemmas with new attributes

In future PRs we will add `basify [h1, h2, ...]` syntax to pass extra facts that help translation (finiteness, nonzeroness).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
@j-loreaux worked on a similar project at ICERM. Can you comment how the approaches you took differ?

**Comment by vasnesterov** [comment]
I didn't know about that, could you please give a link?

**Comment by lua-vr** [comment]
This looks good! I have a question related to using this tactic with `ENorm`s which I try to condense in the following example. You should think of `a` as the atom `∥a∥ₑ`, `b` as the atom `∥b∥ₑ` and `ab` as the atom `∥a + b∥ₑ`. It is usually the case that we have some sort of triangle inequality that implies `a ≠ ⊤ → b ≠ ⊤ → ab ≠ ⊤`. However, `a` and `b` are not arguments of `ab`, so I don't think there is a way to tag the implication as `basify_split`. So the example below generates side goals that are unprovable, even though manually it is still possible to `basify`. It would be nice if it found that `ab ≠ ⊤` from the other cases.

```lean
/--
error: unsolved goals
case coe.coe.top.top
a b : ℝ≥0
htriangle : True → True → False
ha : 0 ≤ ↑a
hb : 0 ≤ ↑b
⊢ ∞ * ↑(a + b) = ∞

case coe.coe.coe.top
a b ab : ℝ≥0
htriangle : True → True → True
hab : 0 ≤ ↑ab
ha : 0 ≤ ↑a
hb : 0 ≤ ↑b
⊢ ↑ab ≤ ∞ * ↑(a + b)

case coe.coe.coe.coe
a b ab : ℝ≥0
htriangle : True → True → True
C : ℝ≥0
hC : ¬↑C = 0
hab : 0 ≤ ↑ab
hC_1 : 0 ≤ ↑C
ha : 0 ≤ ↑a
hb : 0 ≤ ↑b
⊢ ↑ab ≤ ↑C * (↑a + ↑b)
-/
#guard_msgs in
example (a b ab C : ℝ≥0∞) (htriangle : a ≠ ⊤ → b ≠ ⊤ → ab ≠ ⊤) (hC : C ≠ 0) :
    ab ≤ C * (a + b) := by
  basify
  done
```

File: Mathlib/Tactic/Basify/Core.lean [hunk 1]
```diff
@@ -0,0 +1,367 @@
...
+
+/-! ### Propositional cleanup
+
+The `basify_split` simp set is run with `simp only`, so it has to carry the handful of
+propositional lemmas needed to actually make a contradictory branch disappear: without
+`not_true_eq_false`, a hypothesis `⊤ ≠ ⊤` gets stuck at `¬True` instead of closing the goal.
+-/
+
+attribute [basify_split] ne_eq not_true_eq_false not_false_eq_true eq_self_iff_true
+  true_and and_true and_self true_or or_true or_self true_iff iff_true
```
Comment (lua-vr) [inline Mathlib/Tactic/Basify/Core.lean]:
```suggestion
  true_and and_true and_self true_or or_true or_self true_iff iff_true
  true_implies implies_true false_implies
```
Would it make sense to add those? They eliminate the unsolvable goal in my example.

**Comment by vasnesterov** [comment]
This is still WIP, please don't waste your time reviewing it. The implementation will change substantially, I'll finalize this in a couple of days. Feature requests are very welcome though!

**Comment by lua-vr** [comment]
Ok! Then consider that use case as a feature request. The `htriangle` lemma would not be a hypothesis but a global declaration in reality, so we should be able to tag it somehow.

**Comment by grunweg** [comment]
> I didn't know about that, could you please give a link?

I believe https://github.com/leanprover-community/mathlib4/compare/master...leanprover-community:mathlib-at-ICERM26:untopify is where the initial prototype was created. @j-loreaux wanted to post a cleaned up version soon.

**Comment by vasnesterov** [comment]
> > I didn't know about that, could you please give a link?
> 
> I believe [master...leanprover-community:mathlib-at-ICERM26:untopify](https://github.com/leanprover-community/mathlib4/compare/master...leanprover-community:mathlib-at-ICERM26:untopify) is where the initial prototype was created. @j-loreaux wanted to post a cleaned up version soon.

The main difference is that `basify` supports multiple types via `@[basify_elim]`, and splits all atoms, not only free variables. `untopify` handles `ℝ≥0∞` only, and splits an atom into three cases: `x = 0`, `0 < x`, `x = ∞`, where `basify` uses two: `x = ∞` and `x = ENNReal.ofNNReal _`. This is configurable by `@[basify_elim]` though.

File: Mathlib/Tactic/Basify.lean [hunk 2]
```diff
@@ -0,0 +1,300 @@
...
+3. We finish the descent with a final `simp_all only [basify_simp]`, which uses the hypotheses to
+  discharge the side conditions of the conditional cast lemmas.
+
+## Relation to other tactics
+
+`basify` achieves what `zify`/`qify`/`rify` achieve -- propositions shifted to a type where the
+arithmetic is total -- but not in the same way: those leave every variable's type alone, whereas
+`basify` destructs the variables, so an `ℝ≥0` hypothesis really does become an `ℝ` one paired with
+`0 ≤ ·`. In that respect it is closer to `lift`. The name says "the base type" rather than a fixed
+one because the target depends on what is registered: `ℕ` for `ℕ∞`, `ℝ` for `ℝ≥0∞`.
```
Comment (joneugster) [inline Mathlib/Tactic/Basify.lean:54]: I've been wondering about these relations before looking at the source code and finding your comment about them. 

I'm asking because I think it would be good to think if our zoo of tactics (the 4 mentioned above) could be condensed into fewer tactics with nice automation and a good user experience (`basify`).

One thing about maintainability which isn't ideal with several tactics, is that each of them brings their own (incomplete) set of attributes, which need to be added for it to work. For example, it looks like `lift` could make progress on your examples about `ℝ≥0∞` if the following `CanLift` instance wasn't missing:

```lean4
instance : CanLift ℝ≥0∞ ℝ ENNReal.ofReal (· ≠ ∞) :=
  { prf := fun x h ↦ by
      use x.toReal
      exact ENNReal.ofReal_toReal_eq_iff.mpr h }
```

So, how do you see this connection the other tactics, does `basify` aim to be strictly superior to `zify`/`qify`/`rify`/`lift` and could it reasonably replace them in the future?

(this is not a blocker in any way, I'm fine with adding yet another tactic without having a clear plan about how it connects to existing ones. Somehow usability will prefer "better tactics" in a natural way over time)

File: Mathlib/Tactic/Basify.lean
Comment (joneugster) [inline Mathlib/Tactic/Basify.lean:1]: another related question to the long paragraph I've just wrote:

What do you think about an optional syntax like `basify to ℝ` which would allow to explicitly specify the target type. I think this might be useful in the following cases

- `basify to ℝ` vs `basify to ℝ≥0` when starting in `ℝ≥0∞`. (not sure if there is any practical reason one would ever want to do that though...)
- `basify to ℝ` when starting in e.g. `ℕ` could replace the `[zqr]ify` tactics, I believe.

**Review by joneugster — COMMENTED** [review]
Thanks for the PR! This is already nice to play around with! I've got a few conceptual questions about what the scope and the user experience of the tactic should be.

At a glance, the quality of the implementation seems to be already quite high, so I expect not much will be required on that front; but I'll look at that in detail after the conceptual questions are discussed.

File: Mathlib/Tactic/Basify.lean [hunk 3]
```diff
@@ -0,0 +1,300 @@
...
+-/
+module
+
+public import Mathlib.Tactic.Basify.Attr
+public import Mathlib.Tactic.Cases
+public import Mathlib.Util.AtomM
+public meta import Lean.Meta.Tactic.Generalize
+
+/-!
+# The `basify` tactic
```
Comment (SnirBroshi) [inline Mathlib/Tactic/Basify.lean:14]: Could you mention in this section where the name comes from? (I assume "base" + "ify"?)

File: Mathlib/Tactic/Basify.lean (hunk 2 above)
Comment (vasnesterov) [reply Mathlib/Tactic/Basify.lean:54]: Thank you, I think this is an important question.

All these tactics fight the same problem: one mathematical object can be represented by several types, and sometimes we need to translate between them. There are two kinds of tactic here:

* `zify`/`qify`/`rify` translate propositions (hypotheses or the goal), introducing and pushing coercions
* `lift` translates objects (it replaces the type of a variable).

The first group works only "upwards", into a larger type. The benefit is that the translated term keeps all the information -- `n : ℕ` becomes `↑n : ℤ` -- so local tactics such as `simp` can still use it. The drawback is that tactics like `linarith` then need a preprocessor per type. Extracting those preprocessors into one general tactic seems more scalable, and that is what `basify` is.

It basically repeats two phases until nothing can be translated:
1. translates terms between types, more or less as `lift` does, using an eliminator registered with `@[basify_elim]`;
2. runs `simp` with a set of cleanup lemmas.

We can also make it more surgical: translate only given terms, or only given types. That would answer your `basify to ℝ` suggestion below.

About the missing `CanLift` instance: I'd say `@[basify_elim]` is that same registration, slightly generalised. A `CanLift` instance is a one-case eliminator plus a side condition the user discharges, so `lift a to ℝ using ha` needs `ha : a ≠ ∞` in hand, while `basify` just emits `a = ∞` as one of the goals.

I also tried registering `ℕ → ℤ` -- an eliminator plus `zify`'s cast lemmas, and `basify` seems to work as well as `zify`, but it is a bit more verbose: where `zify` just introduces coercions, `basify` adds a variable and a nonnegativity hypothesis to the context.

File: Mathlib/Tactic/Basify.lean
Comment (joneugster) [reply Mathlib/Tactic/Basify.lean:1]: (discussed above)

File: Mathlib/Tactic/Basify.lean (hunk 2 above)
Comment (joneugster) [reply Mathlib/Tactic/Basify.lean:54]: Thanks for the detailed thoughts!

In that case I'd put `basify to ℝ` on the wish list, but since I think it might be more of a niche feature, I suggest this doesn't need to happen in this PR.

**Comment by joneugster** [comment]
Thank you for this PR! I suggest

maintainer merge

File: Mathlib/Tactic/Basify.lean [hunk 4]
```diff
@@ -0,0 +1,299 @@
...
+
+Mathlib has many types built from a well-behaved type by a construction that makes the resulting
+arithmetic partial or truncated. The two commonest are
```
Comment (ocfnash) [inline Mathlib/Tactic/Basify.lean]:
```suggestion
arithmetic partial or truncated. The two most common are
```

**Review by ocfnash — APPROVED** [review]

**Comment by ocfnash** [comment]
Thanks!

bors merge
